US04863921
To a solution of 0.3 g of sodium in 15 ml methanol is added 0.6 g of methyl 1-acetylamino-2-chloro-5a,6,7,8,9,9a-hexahydrodibenzofuran-4-carboxylate. Stirring is continued at 60° C. for two days. This is then diluted with 5 ml 1N sodium hydroxide and stirring continued at 60° C. overnight. The methanol is removed in vacuum, diluted with water, filtered, acidified with acetic acid, filtered, washed with water, dried over magnesium sulfate and evaporated to dryness to obtain 1-amino-2-chloro-5a,6,7,8,9,9a-hexahydrodibenzofuran-4-carboxylic acid. This is purified by crystallization from ethyl acetate/ether.

reactant | sodium | 0.3 g | [Na] | Na
reactant | methyl 1-acetylamino-2-chloro-5a,6,7,8,9,9a-hexahydrodibenzofuran-4-carboxylate | 0.6 g | C(C)(=O)NC1=C(C=C(C=2OC3C(C21)CCCC3)C(=O)OC)Cl | C16H18ClNO4
solvent | methanol | 15 ml | CO | CH4O
solvent | sodium hydroxide | 1N, 5 ml | [OH-].[Na+]
product | 1-amino-2-chloro-5a,6,7,8,9,9a-hexahydrodibenzofuran-4-carboxylic acid | NC1=C(C=C(C=2OC3C(C21)CCCC3)C(=O)O)Cl | C13H14ClNO3
